US06316466B1
A mixture of 5-amino-4-[3-(3-chloropropylamino)benzoyl]-1-(4-fluorophenyl)pyrazole (0.05 g, 0.13 mmol), morpholine (0.1 ml, 1.1 mmol), potassium carbonate (0.1 g) and potassium iodide (0.1 g) in acetonitrile (3 ml) was heated at reflux. After 2 days, the reaction mixture was poured into brine and the product was extracted into ethyl acetate. The organic layer was separated, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (elution gradient: 3% MeOH/CH2Cl2) to give 5-amino-1-(4-fluorophenyl)-4-[3-{3-(morpholin-4-yl)propylamino}benzoyl]pyrazole as a solid.

reactant | 5-amino-4-[3-(3-chloropropylamino)benzoyl]-1-(4-fluorophenyl)pyrazole | 0.13 mmol, 0.05 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)NCCCCl)=O | C19H18ClFN4O
reactant | morpholine | 1.1 mmol, 0.1 ml | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | 5-amino-1-(4-fluorophenyl)-4-[3-{3-(morpholin-4-yl)propylamino}benzoyl]pyrazole | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)NCCCN1CCOCC1)=O | C23H26FN5O2
